US04237062
The t-octylisothiocyanate was prepared from the reaction of diisobutylene and sodium thiocyanate as follows:

reactant | diisobutylene | CC(=C)CC(C)(C)C | C8H16
reactant | sodium thiocyanate | [S-]C#N.[Na+]
product | t-octylisothiocyanate | C(C)(C)(CC(C)(C)C)N=C=S | C9H17NS
